US06602884B2
0.74-cm3 of triethylamine was added to a solution composed of 1.17 g of methyl (3RS, 4RS) 4-[3-(R,S)-hydroxy-3-(3-fluoro-6-methoxyquinolin-4-yl)propyl)piperidine-3-carboxylate dihydrochloride in 20-cm3 of acetonitrile and 10-cm3 of DMF, followed by 638 mg of 2-(2-bromoethylthio)thiophene in 10-cm3 of acetonitrile, 1 g of potassium carbonate and 431 mg of potassium iodide. The mixture was stirred for 15 hours at a temperature in the region of 65° C. under an inert atmosphere. After cooling to about 20° C., the reaction mixture was filtered on sintered glass. The filtrate was taken up in 100-cm3of acetonitrile and concentrated under reduced pressure (5 kPa). The residue was taken up in 200-cm3 of ethyl acetate and 100-cm3 of water. The organic phase was separated after settling out, washed with twice 75-cm3 of a saturated aqueous sodium chloride solution, dried over magnesium sulfate, filtered, and concentrated under reduced pressure (5 kPa) at a temperature in the region of 40° C. The residue obtained was purified by chromatography, under a nitrogen pressure of 50 kPa, on a column of silica gel (particle size 20-45 μ; diameter 2 cm; height 40 cm), eluting with a mixture of cyclohexane-ethyl acetate (25/75 by volume) and collecting 50-cm3 fractions. Fractions 6 to 8 were concentrated. 630 mg of methyl (3RS,4RS)-4-[3-(R,S)-hydroxy-3-(3-fluoro-6-methoxyquinolin-4-yl)propyl]-1-[2-(2-thienylthio)ethyl]piperidine-3-carboxylate were obtained in the form of a colorless oil.

reactant | 4-[3-(R,S)-hydroxy-3-(3-fluoro-6-methoxyquinolin-4-yl)propyl)piperidine-3-carboxylate dihydrochloride | Cl.Cl.OC(CCC1C(CNCC1)C(=O)O)C1=C(C=NC2=CC=C(C=C12)OC)F
reactant | 2-(2-bromoethylthio)thiophene | 638 mg | BrCCSC=1SC=CC1 | C6H7BrS2
reactant | potassium carbonate | 1 g | C([O-])([O-])=O.[K+].[K+]
reactant | potassium iodide | 431 mg | [I-].[K+]
solvent | acetonitrile | 20-cm3 | C(C)#N | C2H3N
solvent | DMF | 10-cm3 | CN(C)C=O | C3H7NO
solvent | acetonitrile | 10-cm3 | C(C)#N | C2H3N
solvent | triethylamine | 0.74-cm3 | C(C)N(CC)CC | C6H15N
product | methyl (3RS,4RS)-4-[3-(R,S)-hydroxy-3-(3-fluoro-6-methoxyquinolin-4-yl)propyl]-1-[2-(2-thienylthio)ethyl]piperidine-3-carboxylate | 630 mg | OC(CCC1C(CN(CC1)CCSC=1SC=CC1)C(=O)OC)C1=C(C=NC2=CC=C(C=C12)OC)F | C26H31FN2O4S2
